* loop filter for pll
* in: d_up d_down digital data
* out: vout, vco control voltage
* according to http://www.uwe-kerwien.de/pll/pll-schleifenfilter.htm

.subckt loopfe d_U d_D vout

.param loadcur=5m
.param initcond=2.5

v1 vtop 0 1
v2 vbot 0 -1

abridge-f1 [d_U d_D] [u1 d1] dac1
.model dac1 dac_bridge(out_low = 0 out_high = 1 out_undef = 0.5
+ input_load = 5.0e-12 t_rise = 1e-10
+ t_fall = 1e-10)

*top switched current source
Gtop vtop vout cur='loadcur*v(u1)'
*bottom switched current source
Gbot vout vbot cur='loadcur*v(d1)'

*passive filter elements
.ic v(vout)='initcond' v(c1)='initcond'
R2 vout c1 200
C1 c1 0 5n
C2 vout 0 5n
Rshunt vout 0 10000k

.ends
